US07947685B2
Step 4: [3-(5-Fluoro-pyridin-2-ylcarbamoyl)-5-methyl-pyrazin-2-yl]-pyridin-3-yl-carbamic acid tert-butyl ester
The title compound, MS: m/e=425.2 (M+H+), was prepared in accordance with the general method of example 8, step 3 from 3-(tert-butoxycarbonyl-pyridin-3-yl-amino)-6-methyl-pyrazine-2-carboxylic acid and 2-amino-5-fluoropyridine.

reactant | 3-(tert-butoxycarbonyl-pyridin-3-yl-amino)-6-methyl-pyrazine-2-carboxylic acid | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)C)C(=O)O)C=1C=NC=CC1 | C16H18N4O4
reactant | 2-amino-5-fluoropyridine | NC1=NC=C(C=C1)F | C5H5FN2
product | [3-(5-Fluoro-pyridin-2-ylcarbamoyl)-5-methyl-pyrazin-2-yl]-pyridin-3-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C=1C=NC=CC1)C1=NC=C(N=C1C(NC1=NC=C(C=C1)F)=O)C)=O | C21H21FN6O3
